US07241458B1
4,6-dichloro —N-(2,6-dibromo-4-methylphenyl)-1,3,5-triazin-2-amine (0.00651 mol), was dissolved in 1,4-dioxane (30 ml). Sequentially, 4-aminobenzonitrile (0.0066 mol) and N,N-diisopropylethylamine (0.0066 mol) were added, and the clear solution was heated to reflux for 4 days. The reaction was allowed to cool to room temperature overnight, and the mixture was diluted with ethyl acetate and treated with cold 1 M NaOH. The layers were separated, and the organic phase was re-extracted with fresh 1 M NaOH. The combined aqueous phases were treated with solid NaOH to maintain pH>10 and backwashed with ethyl acetate (2×). The combined organic phases were dried, filtered and concentrated. The residue was separated and purified by flash column chromatography over silica gel (eluent: CH2Cl2). The desired fractions were combined, treated with CH3CN, triturated with CH3CN, filtered off and dried, yielding 0.30 g (8.0%) of 4-[[4-amino-6-[(2,6-dibromo-4-methylphenyl)-amino]-1,3,5-triazin-2-yl]amino]benzonitrile.

reactant | 4,6-dichloro —N-(2,6-dibromo-4-methylphenyl)-1,3,5-triazin-2-amine | 0.00651 mol | ClC1=NC(=NC(=N1)Cl)NC1=C(C=C(C=C1Br)C)Br | C10H6Br2Cl2N4
reactant | 4-aminobenzonitrile | 0.0066 mol | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | N,N-diisopropylethylamine | 0.0066 mol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[4-amino-6-[(2,6-dibromo-4-methylphenyl)-amino]-1,3,5-triazin-2-yl]amino]benzonitrile | 0.30 g, 8.0% | NC1=NC(=NC(=N1)NC1=C(C=C(C=C1Br)C)Br)NC1=CC=C(C#N)C=C1 | C17H13Br2N7
